Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ man with history of COPD on 3L home ___ and 
frequent hospitalization for COPD exacerbations, as well as lung 
cancer s/p left upper lobe lobectomy, and some baseline 
cognitive deficits presenting with dyspnea.

Patient reports a progressively worsening of his dyspnea since 
___. He says that the day prior to admission he saw his eye 
doctor at the ___ who noticed that he was having some respiratory 
distress, and told him to go to the ED. He denied any acute 
worsening in his breathing or acute increase in cough or 
production or color of sputum. He initially reported some mild 
pleuritic chest pain that had completely resolved upon arrival 
to the floor. He otherwise also endorsed some malaise and a 
10lbs unintentional weight loss over the past 2 months. He 
denied fevers/chills, hemoptysis, increasing lower extremity 
swelling, calf pain, abdominal pain, or any nausea, vomiting, 
diarrhea.

Regarding his baseline respiratory status, he reports that he 
occasionally gets dyspnea at rest (less than once daily) and can 
walk ___ yards before getting short of breath. He endorsed 
orthopnea and sleeps in a hospital bed at home with the head of 
the bed raised to ~45 degrees. He also reports intermittent 
chest palpitations. 

In the ED, initial vital signs were:  Tc 97.1, HR 98, BP 133/61, 
RR 20, O2 sat 94% on 3L. Exam in the ED was notable for wheeze 
throughout patient's lungs fields. ED labs were notable for 
elevated D-dimer, negative troponins and normal WBC. Imaging CTA 
negative for PE.

The patient was given: 2x Ipratropium Nebs, 2x Albuterol Nebs, 
Methylprednisone 125mg, Ceftriaxone 1gm, Azithromycin 500mg. 

Upon arrival to the floor, the patient had stable vital signs 
and was in no acute distress. His vital signs were Temp 97.7, HR 
102, BP 173/93, RR 21, O2 sat 96 3LNC. 

 
Past Medical History:
COPD on 3L at baseline
HTN
?fast HR
Stage 1a NSCLC s/p LUL lobectomy
CAD - hx of MI ___ years ago)
Delusional disorder
Lumbar radiculopathy
Chronic back pain
PVD s/p stenting 
OSA
Peripheral neuropathy
GERD
HLD
T2DM non-insulin dependent 
Incisional hernia
AAA s/p endovascular repair 
 
Social History:
___
Family History:
Patient does not know family history. He recalls that his mother 
had duodenal ulcers. 
1 sister: deceased
mother: deceased
daughter: good health
father: not known 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 97.7 173/93 21 96% 3L
GENERAL: Overweight, elderly man sitting on the edge of his bed, 
in no acute distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus. Pupils are 1mm and minimally reactive. EOMI. OP 
clear.   
NECK: Supple, no LAD. JVD difficult to visualize due to body 
habitus. 
CARDIAC: slightly tachycardic (105bpm), normal S1/S2. no 
murmurs, rubs or gallops.  
PULMONARY: Moderately decreased air movement. Prolonged 
expiratory phase. Heavy breathing on 3L NC. Able to speak in 
short sentences without pause, unable to speak long sentences 
without pause. Expiratory wheezes bilaterally.
ABDOMEN: Somewhat tense. Large (15cm diameter) right sided 
ventral hernia with +BS heard over hernia. A midline/LUQ 3 inch 
scar, well healed. Nontender in all four quadrants. No HSM 
appreciated. No fluid wave.
EXTREMITIES: Venous stasis changes bilaterally. 1+ edema 
bilaterally. DP are intact bilaterally but left is weaker than 
right. Feet feel slightly cool. 
SKIN: Venous stasis changes in L and R calves. No visible rashes 
or lesions.
NEUROLOGIC: A&Ox3 (date "early ___, CN II-XII grossly 
normal, normal sensation, with strength ___ in UE and ___. 

DISCHARGE PHYSICAL EXAM:
VS - Temp 98.3, HR 98, BP 133/65, RR 96% 4LNC. ___ 143
GENERAL: Overweight, elderly man lying in bed with head of bed 
raised to ~15 degrees. In no acute distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus. Pupils are 2mm and reactive. EOMI. OP clear.   
NECK: Supple, no LAD. JVD difficult to visualize due to body 
habitus. 
CARDIAC: RRR, normal S1/S2. no murmurs, rubs or gallops.  
PULMONARY: Wet crackles heard at lung bases b/l. Prolonged 
expiratory phase. Heavy breathing on 4L NC. Minimal expiratory 
wheezes bilaterally.
ABDOMEN: Somewhat tense. Large (15cm diameter) right sided 
ventral hernia with +BS heard over hernia. A midline/LUQ 3 inch 
scar, well healed. Nontender in all four quadrants. No HSM 
appreciated. No fluid wave.
EXTREMITIES: Venous stasis changes bilaterally. Trace edema 
bilaterally. DP are intact bilaterally but left is weaker than 
right. Feet feel slightly cool. 
SKIN: Venous stasis changes in L and R calves. No visible rashes 
or lesions.
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ in UE and ___. 
 
Pertinent Results:
******************
ADMISSION LABS
******************
___ 07:40PM BLOOD WBC-5.1 RBC-3.81* Hgb-10.7* Hct-35.8* 
MCV-94 MCH-28.1 MCHC-29.9* RDW-15.2 RDWSD-52.4* Plt ___
___ 08:47PM BLOOD ___ PTT-27.8 ___
___ 07:40PM BLOOD Plt ___
___ 07:40PM BLOOD Glucose-95 UreaN-15 Creat-1.0 Na-141 
K-4.0 Cl-98 HCO3-32 AnGap-15
___ 07:40PM BLOOD ALT-26 AST-26 AlkPhos-95 TotBili-0.2
___ 07:40PM BLOOD Lipase-23
___ 07:40PM BLOOD cTropnT-<0.01
___ 07:40PM BLOOD proBNP-62
___ 07:40PM BLOOD Albumin-3.9
___ 08:47PM BLOOD D-Dimer-4815*
___ 10:50PM BLOOD ___ pO2-44* pCO2-67* pH-7.35 
calTCO2-39* Base XS-7
___ 08:46PM BLOOD Lactate-1.2
___ 10:50PM BLOOD O2 Sat-75
___ 03:25AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

*****************
DISCHARGE LABS
*****************
___ 05:55AM BLOOD WBC-9.3# RBC-3.74* Hgb-10.4* Hct-34.3* 
MCV-92 MCH-27.8 MCHC-30.3* RDW-15.0 RDWSD-50.8* Plt ___
___ 05:55AM BLOOD Plt ___
___ 05:55AM BLOOD Glucose-151* UreaN-18 Creat-0.8 Na-141 
K-3.8 Cl-99 HCO3-34* AnGap-12
___ 07:40PM BLOOD ALT-26 AST-26 AlkPhos-95 TotBili-0.2
___ 12:10AM BLOOD ___ pO2-197* pCO2-62* pH-7.37 
calTCO2-37* Base XS-8 Comment-GREEN TOP

***************
STUDIES
***************
CXR ___:
No acute process

CTA: ___
No pulmonary embolism. Mild to moderate emphysema.Pulmonary 
nodules measure up to 4 mm.

 
Brief Hospital Course:
Summary
___ with history of COPD on 3L home O2 and frequent 
hospitalization for COPD exacerbations, as well as lung cancer 
s/p LUL lobectomy, and some baseline dementia presenting with 
dyspnea.

Acute issues
#COPD EXACCERBATION: The patient initially reported recent acute 
increase in dyspnea and cough over the last 24h which is 
suggestive of COPD exacerbation. Patient has a history of 
frequent COPD exacerbations and has received several courses of 
steroids and antibiotics over the last year (most recently in 
early ___. The patient does have some difficulty relaying the 
history (possibly secondary to some baseline dementia) and the 
history obtained suggests a more progressive worsening of 
respiratory status as opposed to an acute exacerbation. On 
admission he did not had any fevers/white cell count or evidence 
of pneumonia on CXR making infection unlikely. Furthermore, his 
influenza swab was negative. EKG showed no ST elevation, 
troponin negative, making ACS unlikely. BNP was 60 making heart 
failure unlikely, but patient has no recent ECHO. BMP 
unremarkable. Elevated D-dimer, but CTA showed no evidence of 
pulmonary embolism. He was given a dose of IV methylprednisone 
in the ED. He was also given 1g of ceftriaxone in the ED to 
cover for a possible pneumonia but did not require additional IV 
antibiotics. He was started on a 5 day course of prednisone 40mg 
and azithromycin for possible COPD exacerbation. On day of 
transfer to the ___ he was breathing well on 4L NC which is close 
to baseline. 

Chronic Issues
#HTN: Longstanding, on metoprolol succinate 75mg daily and 
diltiazem ER 360mg daily at home. Patient was hypertensive 
(173/93) on arrival to the floor, likely due to missing 
medication doses in the ED. He was started on his home diltiazem 
and on metoprolol tartrate 37.5mg BID and pressures were well 
controlled. 

#T2DM: Non-insulin dependent, on metformin only at home (last 
A1c 8.3 (___). Home metformin was held and he was started on 
Humalog sliding scale. Blood sugars were 140s on day of 
transfer.

#Nicotine and substance dependence: Patient has a longstanding 
heavy smoking history. Currently smokes <10 cigarettes per day. 
Smoking cessation was encouraged and nicotine patch provided. He 
also reported ongoing cocaine and marijuana use. He was 
counseled on the importance of abstaining from illicit drugs. 

#Pulmonary Nodules: Nodules on CTA scan. Given that the patient 
has a hx of NSCLC (stage 1a) s/p left upper lobe lobectomy. See 
transitional issue below.

#Coronary artery disease, history of MI. Continued home ASA 81mg 
and home Rosuvastatin 40 mg QPM. 

#Peripheral Artery Disease s/p stent. Continued home Cilostazol 
100mg BID. 

#Peripheral neuropathy. Continued home Gabapentin (300mg TID + 
300mg qHS).

#GERD. Continued home omeprazole 

=================================
TRANSITIONAL ISSUES
=================================
- Flu swab was negative. 
- Started treatment for COPD exacerbation (see below)
 - Started Prednisone 40mg PO, ___ay 1 is ___. Last 
day is ___.
 - Started Azithromycin 5 day course (500mg day 1, 250mg days 
___. Day 1 is ___. Last day is ___. 
 - He was given albuterol/ipratropium nebs q6h:prn
- Follow up appt with PCP ___ ___ 09:30am
- Patient likely requires additional home services. We 
communicated with daughter (___) and PCP, discussed 
importance of upcoming PCP ___. Plan is to make extra 
efforts to get patient to PCP follow up appointment to help set 
up extra home services. 
- 4mm pulmonary nodule noted on CTA, given patient's hx of NSCLC 
(stage 1a) s/p LUL lobectomy, would recommend outpatient follow 
up if within goals of care. 

# CONTACT: daughter ___ (___)
- mother of daughter, ___ (___) 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
3. Aspirin 81 mg PO DAILY 
4. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
5. Vitamin D 1000 UNIT PO DAILY 
6. Cilostazol 100 mg PO BID 
7. Diltiazem Extended-Release 360 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Gabapentin 300 mg PO TID 
11. Gabapentin 300 mg PO QHS 
12. Guaifenesin ER 600 mg PO Q12H 
13. Lidocaine 5% Patch 1 PTCH TD QAM 
14. Loratadine 10 mg PO DAILY 
15. MetFORMIN (Glucophage) 1000 mg PO BID 
16. Metoprolol Succinate XL 75 mg PO DAILY 
17. mometasone 200 mcg/actuation inhalation BID 
18. Nicotine Patch 14 mg TD DAILY 
19. Omeprazole 20 mg PO BID 
20. Rosuvastatin Calcium 40 mg PO QPM 
21. Tamsulosin 0.4 mg PO QHS 
22. Tiotropium Bromide 1 CAP IH DAILY 
23. TraMADol 100 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Metoprolol Succinate XL 75 mg PO DAILY 
5. mometasone 200 mcg/actuation inhalation BID 
6. TraMADol 100 mg PO Q6H:PRN pain 
7. Acetaminophen 1000 mg PO Q8H:PRN pain 
8. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
9. Aspirin 81 mg PO DAILY 
10. Cilostazol 100 mg PO BID 
11. Diltiazem Extended-Release 360 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Gabapentin 300 mg PO TID 
14. Gabapentin 300 mg PO QHS 
15. Guaifenesin ER 600 mg PO Q12H 
16. Lidocaine 5% Patch 1 PTCH TD QAM 
17. Loratadine 10 mg PO DAILY 
18. Nicotine Patch 14 mg TD DAILY 
19. Omeprazole 20 mg PO BID 
20. Rosuvastatin Calcium 40 mg PO QPM 
21. Tamsulosin 0.4 mg PO QHS 
22. Tiotropium Bromide 1 CAP IH DAILY 
23. Vitamin D 1000 UNIT PO DAILY 
24. Azithromycin 250 mg PO Q24H Duration: 4 Doses 
25. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
26. PredniSONE 40 mg PO DAILY Duration: 4 Doses 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: COPD exacerbation

Secondary: HTN, DM, CAD, GERD, neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were recently admitted to the ___ 
in ___. 

Why was I admitted to the hospital?
- You were admitted to the hospital for shortness of breath. 

What was done while I was in the hospital? 
- You were treated for a COPD exacerbation. You were given 
steroid medications, antibiotics and inhaler medications.
- You were transferred to the ___, because they know 
you well there and will be able to help set you up with home 
services 

What should I do when I leave the hospital?
- You will be going to the ___ ___
- It is VERY important that you follow up with Dr. ___ on 
___ at 9:30AM. Do not miss this appointment.
- You should continue taking all of your medications as 
prescribed by your doctors

___ was a pleasure taking care of you. We wish you the best of 
health.

- Your ___ Team 
 
Followup Instructions:
___